US08557872B2
Step 2: Synthesis of 2-propylamino-4-(trifluoromethyl)-benzoic acid
2-Amino-4-(trifluoromethyl)benzoic acid (714 mg, 3.48 mmol), propionylaldehyde (0.27 ml, 3.74 mmol), acetic acid (3.49 mmol) and sodium triacetoxyborohydride (1.12 g, 5.25 mmol) were added in THF (40 ml). The reaction mixture was stirred overnight. The reaction mixture was quenched by adding sat. NaHCO3 (50 ml). The aqueous mixture was extracted with CH2Cl2 (30 ml×3). A combined organic layer was dried over MgSO4, concentrated in vacuo, and purified with column chromatography to yield title compound (155 mg, 18%).

reactant | 2-Amino-4-(trifluoromethyl)benzoic acid | 3.48 mmol, 714 mg | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | acetic acid | 3.49 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.25 mmol, 1.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-propylamino-4-(trifluoromethyl)-benzoic acid | 155 mg, 18% | C(CC)NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C11H12F3NO2
